US09403847B2
Step G: 1-[3-(3,5-Difluorophenyl)-5-methylimidazo[1,2-a]pyridin-2-yl]ethanamine
A solution of 1-[3-(3,5-difluorophenyl)-5-methylimidazo[1,2-a]pyridin-2-yl]ethanone (0.23 g, 0.82 mmol) in methanol (9.5 mL) was treated with ammonium acetate (0.63 g, 8.2 mmol) and heated at 65° C. for 1 h. The reaction mixture was treated with sodium cyanoborohydride (0.15 g, 2.5 mmol) and heated at 65° C. for 4 h. The reaction mixture was concentrated and purified by preparative LCMS to give the desired product (0.13 g, 56%) as a colorless oil. LCMS for C16H16F2N3 (M+H)+: m/z=288.1.

reactant | 1-[3-(3,5-difluorophenyl)-5-methylimidazo[1,2-a]pyridin-2-yl]ethanone | 0.82 mmol, 0.23 g | FC=1C=C(C=C(C1)F)C1=C(N=C2N1C(=CC=C2)C)C(C)=O | C16H12F2N2O
reactant | ammonium acetate | 8.2 mmol, 0.63 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 2.5 mmol, 0.15 g | C(#N)[BH3-].[Na+]
solvent | methanol | 9.5 mL | CO | CH4O
product | 1-[3-(3,5-Difluorophenyl)-5-methylimidazo[1,2-a]pyridin-2-yl]ethanamine | 0.13 g, 56% | FC=1C=C(C=C(C1)F)C1=C(N=C2N1C(=CC=C2)C)C(C)N | C16H15F2N3
